US07897619B2
To a 150 mL round-bottomed flask was added p-toluenesulfonylmethyl isocyanide (3.50 g, 18.0 mmol) and MeOH, followed by sodium methoxide (11.0 mL, 50.9 mmol) and a MeOH solution of isoquinoline-6-carbaldehyde (2.35 g, 15.0 mmol). The solution was stirred at reflux for about 1 hour and followed by LCMS. Water was added (50 mL) and the MeOH was removed in vacuo. The suspension was cooled to 0° C., and the resulting precipitate was filtered and dried in a vacuum oven overnight to give 6-(oxazol-5-yl)isoquinoline (2.50 g, 85% yield) as a tan powder. LCMS (API-ES) m/z (%): (100%, M++H).

reactant | p-toluenesulfonylmethyl isocyanide | 18.0 mmol, 3.50 g | C1(=CC=C(C=C1)S(=O)(=O)C[N+]#[C-])C | C9H9NO2S
reactant | MeOH | CO | CH4O
reactant | sodium methoxide | 50.9 mmol, 11.0 mL | C[O-].[Na+]
reactant | isoquinoline-6-carbaldehyde | 15.0 mmol, 2.35 g | C1=NC=CC2=CC(=CC=C12)C=O | C10H7NO
solvent | Water | O | H2O
product | 6-(oxazol-5-yl)isoquinoline | 2.50 g, 85% yield | O1C=NC=C1C=1C=C2C=CN=CC2=CC1 | C12H8N2O
